US07884210B2
{2-[3-(6-Acetylamino-pyridin-3-yl)-3-cyclopentylmethyl-ureido]-thiazol-5-ylsulfanyl}-acetic acid
The title compound was prepared via {2-[3-(6-acetylamino-pyridin-3-yl)-3-cyclopentylmethyl-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester in a similar manner as described for the synthesis of {2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid, using N-[5-(cyclopentylmethyl-amino)-pyridin-2-yl]-acetamide and (2-amino-thiazol-5-ylsulfanyl)acetic acid ethyl ester

reactant | {2-[3-(6-acetylamino-pyridin-3-yl)-3-cyclopentylmethyl-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)NC(=O)N(CC1CCCC1)C=1C=NC(=CC1)NC(C)=O)=O | C21H27N5O4S2
reactant | {2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid | C1(CCCC1)CN(C(NC=1SC=C(N1)CC(=O)O)=O)C1=CC=C(C=C1)S(=O)(=O)C | C19H23N3O5S2
reactant | N-[5-(cyclopentylmethyl-amino)-pyridin-2-yl]-acetamide | C1(CCCC1)CNC=1C=CC(=NC1)NC(C)=O | C13H19N3O
reactant | (2-amino-thiazol-5-ylsulfanyl)acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)N)=O | C7H10N2O2S2
product | {2-[3-(6-Acetylamino-pyridin-3-yl)-3-cyclopentylmethyl-ureido]-thiazol-5-ylsulfanyl}-acetic acid | C(C)(=O)NC1=CC=C(C=N1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)CC1CCCC1 | C19H23N5O4S2
